US07141596B2
Step 4. 4-(2-tert-Butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-fluorobenzaldehyde
2-tert-Butyl-5-[4-(dibromomethyl)-2-fluorophenyl]isothiazolidin-3-one 1,1-dioxide (4.2 g, 9.2 mmol) and silver nitrate (3.12 g, 18.4 mmol) in ethanol (200 mL) and water (50 mL) were heated at reflux for 0.5 h. The solution was cooled to rt, filtered to remove precipitate, and concentrated to remove most of the ethanol. The residue was diluted with ethyl acetate (200 mL). The organic layer was washed with water (200 mL) and then dried over sodium sulfate. Concentration in vacuo followed by purification by silica gel chromatography (30% ethyl acetate:hexanes) afforded product as a white solid (2.4 g, 83%). 1H NMR (400 MHz, CDCl3): δ 10.0 (d, J=2.0 Hz, 1H), 7.78–7.75 (m,1H), 7.70–7.65 (m, 1H), 7.56–7.52 (m, 1H), 5.13 (dd, J=8.9, 6.6 Hz, 1H), 3.35 (dd, J=17.2, 8.9 Hz, 1H), 3.15 (dd, J=17.2, 6.6 Hz, 1H), 1.66 (s, 9H). LCMS found for C14H17FNNaO4S (M+Na)+: m/z=336.

reactant | 2-tert-Butyl-5-[4-(dibromomethyl)-2-fluorophenyl]isothiazolidin-3-one 1,1-dioxide | 9.2 mmol, 4.2 g | C(C)(C)(C)N1S(C(CC1=O)C1=C(C=C(C=C1)C(Br)Br)F)(=O)=O | C14H16Br2FNO3S
reactant | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
catalyst | silver nitrate | 18.4 mmol, 3.12 g | [N+](=O)([O-])[O-].[Ag+]
product | 4-(2-tert-Butyl-1,1-dioxido-3-oxoisothiazolidin-5-yl)-3-fluorobenzaldehyde | 2.4 g, 83% | C(C)(C)(C)N1S(C(CC1=O)C1=C(C=C(C=O)C=C1)F)(=O)=O | C14H16FNO4S
